US09119868B2
Methyl chloromethyl ether (0.024 mL, 0.321 mmol) was added to a mixture of 6-(N-(3-chloro-4-(3-hydroxyprop-1-en-2-yl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (83 mg, 0.146 mmol) and DIEA (0.076 mL, 0.438 mmol) in dichloromethane (2 mL). The mixture was stirred at room temperature for 1.5 hours. The reaction mixture was diluted with dichloromethane and washed with water and brine, dried over sodium sulfate and concentrated to give 6-(N-(3-chloro-4-(3-(methoxymethoxy)prop-1-en-2-yl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide as a white foam (76 mg, 85%). 1H NMR (400 MHz, chloroform-d) δ ppm 7.89 (dd, J=8.78, 5.27 Hz, 2H) 7.60 (s, 1H) 7.48 (s, 1H) 7.38 (d, J=2.15 Hz, 1H) 7.26-7.31 (m, 1H) 7.16-7.24 (m, 2H) 5.77-5.94 (m, 1H) 5.56 (s, 1H) 5.31 (s, 1H) 5.22 (s, 1H) 4.65 (s, 2H) 4.34 (s, 2H) 3.33 (s, 3H) 3.27 (s, 3H) 3.00 (d, J=4.88 Hz, 3H) 1.87-2.29 (m, 1H) 0.14-1.47 (m, 4H). LCMS (m/z, ES+)=613 (M+H+).

reactant | Methyl chloromethyl ether | 0.321 mmol, 0.024 mL | ClCOC | C2H5ClO
reactant | 6-(N-(3-chloro-4-(3-hydroxyprop-1-en-2-yl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.146 mmol, 83 mg | ClC=1C=C(C=CC1C(=C)CO)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C29H26ClFN2O5S
reactant | DIEA | 0.438 mmol, 0.076 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 6-(N-(3-chloro-4-(3-(methoxymethoxy)prop-1-en-2-yl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 76 mg, 85% | ClC=1C=C(C=CC1C(=C)COCOC)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C31H30ClFN2O6S
